US04452787
A solution of 1.0 g. of 3-(2-chloroethyl)-2,6-dichloro-3,4-dihydroquinazolin-4-one and 1.5 g. of 2-chlorobenzylamine in 50 ml. of ethanol and 1.0 ml of dimethylacetamide is stirred and heated at reflux for 12 hours. The solvent is removed by evaporation in vacuo and the residue dissolved in methylene chloride, washed with water, treated with charcoal, filtered and concentrated in vacuo to obtain a solid which is recrystallized from methylene chloride/pentane and filtered to obtain 1-(o-chlorobenzyl)-7-chloro-2,3-dihydro-imidazo[2,1-b]quinazolin-5(1H)-one, m.p. 173°-174° C.

reactant | 3-(2-chloroethyl)-2,6-dichloro-3,4-dihydroquinazolin-4-one | ClCCN1C(=NC2=CC=C(C=C2C1=O)Cl)Cl | C10H7Cl3N2O
reactant | 2-chlorobenzylamine | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | ethanol | C(C)O | C2H6O
solvent | dimethylacetamide | 1.0 ml | CC(=O)N(C)C | C4H9NO
product | 1-(o-chlorobenzyl)-7-chloro-2,3-dihydro-imidazo[2,1-b]quinazolin-5(1H)-one | ClC1=C(CN2CCN3C2=NC2=CC=C(C=C2C3=O)Cl)C=CC=C1 | C17H13Cl2N3O
